US06548495B2
{2-[3-(3-Cyano-phenyl)-3-oxo-propionylamino]-5-methoxy-4-pyrrol-1-yl-phenyl}-carbamic Acid tert.-Butyl Ester
The title compound was prepared from (2-amino-5-methoxy-4-pyrrol-1-yl-phenyl)-carbamic acid tert.-butyl ester (Example J4) (303 mg, 1.0 mmol) and 3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-benzonitrile (Example L1) (252 mg, 1.1 mmol) according to the general procedure M. Obtained as an off-white solid (257 mg).

reactant | (2-amino-5-methoxy-4-pyrrol-1-yl-phenyl)-carbamic acid tert.-butyl ester | 1.0 mmol, 303 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OC)N1C=CC=C1)N)=O | C16H21N3O3
reactant | 3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-benzonitrile | 1.1 mmol, 252 mg | CC1(OC(C=C(O1)C=1C=C(C#N)C=CC1)=O)C | C13H11NO3
product | {2-[3-(3-Cyano-phenyl)-3-oxo-propionylamino]-5-methoxy-4-pyrrol-1-yl-phenyl}-carbamic Acid tert.-Butyl Ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OC)N1C=CC=C1)NC(CC(=O)C1=CC(=CC=C1)C#N)=O)=O | C26H26N4O5
